US08217177B2
3-methyl-7-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoxalin-2(1H)-one
A mixture of tert-butyl 2-(2-methyl-3-oxo-3,4-dihydroquinoxalin-6-yl)acetate (0.10 g, 0.36 mmol), tert-butyl 2-(3-methyl-2-oxo-1,2-dihydroquinoxalin-6-yl)acetate (0.10 g, 0.36 mmol), 1(6-phenylpyridazin-3-yl)hydrazine (0.081 g, 0.44 mmol) and p-toluenesulfonic acid monohydrate (0.069 g, 0.36 mmol) in 3 mL of dioxane was heated with microwave at 150° C. for 1 hour. The mixture was diluted with 70 mL of EtOAc and 40 mL of satd. NaHCO3 solution. The organic phase was separated and was washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by prep-HPLC to resolve the regiostereomers as example compounds 494 and 495. For each regiosteroemer MS (ESI pos. ion) m/z: 369 (MH+). Calc'd exact mass for C21H16N6O: 368.

reactant | tert-butyl 2-(2-methyl-3-oxo-3,4-dihydroquinoxalin-6-yl)acetate | 0.36 mmol, 0.10 g | CC1=NC2=CC=C(C=C2NC1=O)CC(=O)OC(C)(C)C | C15H18N2O3
reactant | tert-butyl 2-(3-methyl-2-oxo-1,2-dihydroquinoxalin-6-yl)acetate | 0.36 mmol, 0.10 g | CC=1C(NC2=CC=C(C=C2N1)CC(=O)OC(C)(C)C)=O | C15H18N2O3
reactant | 1(6-phenylpyridazin-3-yl)hydrazine | 0.44 mmol, 0.081 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | p-toluenesulfonic acid monohydrate | 0.36 mmol, 0.069 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 3-methyl-7-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoxalin-2(1H)-one | CC=1C(NC2=CC(=CC=C2N1)CC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2)=O | C21H16N6O
